US08859564B2
2-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-methyl-3-(methylsulfinyl)-7-neopentyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
2-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-methyl-3-(methylthio)-7-neopentyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (16 mg, 0.036 mmol) is dissolved in CH2Cl2 (500 μL) and MeOH (500 μL), and then an aqueous solution of Oxone (22.4 mg, 0.036 mmol) is added. The reaction mixture is stirred at room temperature for 2 days, and then purified by a semi-preparative HPLC to give 8 mg of product as off-white solids. MS (ESI) m/z 456.2 [M+H]+.

reactant | 2-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-methyl-3-(methylthio)-7-neopentyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.036 mmol, 16 mg | N1(N=CN=C1)C1=CC=C(CN2N=C3N(C(N(C(C3=C2SC)=O)C)=O)CC(C)(C)C)C=C1 | C21H25N7O2S
reactant | Oxone | 0.036 mmol, 22.4 mg | OOS(=O)[O-].[K+]
solvent | CH2Cl2 | 500 μL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 500 μL | CO | CH4O
product | 2-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-methyl-3-(methylsulfinyl)-7-neopentyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 8 mg | N1(N=CN=C1)C1=CC=C(CN2N=C3N(C(N(C(C3=C2S(=O)C)=O)C)=O)CC(C)(C)C)C=C1 | C21H25N7O3S
